US04029809
Cyanomethyl p-toluenesulfonate
Method of preparation: 8.1 g (0.1 mole of glycolonitrile (70% aqueous solution) is added to a cooled (15° -20° C.) mixture of 9.5 g (0.05 mole) of p-toluenesulfonyl chloride in 20 ml. of 1,2-dimethoxyethane and 50 ml. distilled water. A solution of 2.1 g (0.05 mole) of NaOH in 50 ml. distilled water is added slowly with stirring at 20°-25° C. over a period of 6.5 hours, maintaining the pH of the reaction mixture at about 8. The insoluble material is filtered off, washed with cold water, and dried at 40° C. under vacuum to yield 6.8 g (64% conversion) of the product, a light brown solid, m.p. 48°-50.5° C.

reactant | glycolonitrile | 0.1 mole | C(CO)#N | C2H3NO
reactant | p-toluenesulfonyl chloride | 0.05 mole, 9.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
reactant | NaOH | 0.05 mole, 2.1 g | [OH-].[Na+]
solvent | water | O | H2O
product | Cyanomethyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC#N)C | C9H9NO3S
